US07709645B2
To a solution of 526 mg (1.69 mmol) of 2-amino-3-chloro-5-iodo-benzoic acid methyl ester in 9.0 mL methanol was added 474 mg of potassium hydroxide (8.44 mmol). The solution was stirred at room temperature for 18 hours. An additional 474 mg (8.44 mmol) of potassium hydroxide was added and the solution was heated in an oil bath at 45° C. for 4.5 hours. The solution was acidified to pH=3 by a dropwise addition of 1N aqueous hydrochloric acid. The resulting precipitate was collected by vacuum filtration. The solid was dissolved in methanol and concentrated to dryness. Acetone was added to the residue and the insoluble white precipitates were filtered off. The filtrate was concentrated to afford 500 mg (1.68 mmol, quantitative yield) of 2-amino-3-chloro-5-iodo-benzoic acid as a brown powder. 1H NMR (500 MHz, DMSO-d6) δ 7.95 (d, 1H), 7.76 (d, 1H), 6.91 (s, br., 2H); MS: m/z 295.8 (M−H+).

reactant | 2-amino-3-chloro-5-iodo-benzoic acid methyl ester | 1.69 mmol, 526 mg | COC(C1=C(C(=CC(=C1)I)Cl)N)=O | C8H7ClINO2
reactant | potassium hydroxide | 8.44 mmol, 474 mg | [OH-].[K+]
reactant | potassium hydroxide | 8.44 mmol, 474 mg | [OH-].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 9.0 mL | CO | CH4O
product | 2-amino-3-chloro-5-iodo-benzoic acid | 1.68 mmol, 500 mg, quantitative yield | NC1=C(C(=O)O)C=C(C=C1Cl)I | C7H5ClINO2
